US05506256
E) (2S)-2-(Phenoxyacetyl)-1-[N-(phenoxyacetyl)-L-prolyl]pyrrolidine
(2S)-2-(1-Hydroxy-2-phenoxyethyl)-1-[N-(phenoxyacetyl)-L-prolyl]pyrrolidine (998 mg) was dissolved in a mixture of DMSO (6 ml) and benzene (3 ml), and thereto were added pyridine (0.18 ml) and trifluoroacetic acid (0.09 ml). After ice-cooling the mixture, DCC (941 mg) was added thereto, and the mixture was stirred at room temperature for 2.5 hours. The precipitated dicyclohexylurea was filtered off, and the filtrate was poured into ice-cold 1N hydrochloric acid, followed by extraction with ethyl acetate. The organic layer was washed with saturated aqueous sodium bicarbonate and saturated brine successively, dried over anhydrous magnesium sulfate, and concentrated. The residue was purified by silica gel column chromatography (eluate: chloroform-methanol) to give 759 mg of the title compound.

reactant | (2S)-2-(1-Hydroxy-2-phenoxyethyl)-1-[N-(phenoxyacetyl)-L-prolyl]pyrrolidine | 998 mg | OC(COC1=CC=CC=C1)[C@H]1N(CCC1)C([C@H]1N(CCC1)C(COC1=CC=CC=C1)=O)=O | C25H30N2O5
reactant | pyridine | 0.18 ml | N1=CC=CC=C1 | C5H5N
reactant | trifluoroacetic acid | 0.09 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | DCC | 941 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | DMSO | 6 ml | CS(=O)C | C2H6OS
solvent | benzene | 3 ml | C1=CC=CC=C1 | C6H6
product | (2S)-2-(Phenoxyacetyl)-1-[N-(phenoxyacetyl)-L-prolyl]pyrrolidine | 759 mg | O(C1=CC=CC=C1)CC(=O)[C@H]1N(CCC1)C([C@H]1N(CCC1)C(COC1=CC=CC=C1)=O)=O | C25H28N2O5
